Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Paclitaxel Desensitization
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ yo female with a history of ovarian cancer who is admitted 
for
paclitaxel desensitization and carboplatin. The patient states
she has been feeling well. She denies any fevers, shortness of
breath, nausea, diarrhea, dysuria, or rashes. Of note she was
last admitted on ___ for paclitaxel desensitization and
carboplatin which she tolerated well. 
 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
Ms. ___ was diagnosed at age ___. An u/s on ___ showed an
anteverted uterus at 8.7 x 3.9 x 5.1cm in size with 2 adjacent
cysts measuring 11.8 x 4.5 x 4.9cm with the largest cystic
portion measuring 7.1 x 3.8cm in size. A pelvic MRI in ___
showed an enlarged complex cystic mass likely arising form the
right ovary with 2 enlarged complex  cysts measuring 8.5cm and
6.3cm each. There was no other evidence of metastatic disease.
She underwent surgery on ___. Intraoperative findings 
include
complex bilobed right ovarin mass filled with mucinous cystic
fluid which was ruptured intraoperatively. An attempt was made 
to perform a cystectomy for the ___ cyst, but there was also
rupture of the cyst revealing mucinous material. Frozen showed
borderline tumor, so a complete right sided 
salpingo-oophorectomy
was performed. A small 0.5cm nodule was removed from the left
ovary. She had cul de sac biopsies. The appendix was wnl, and an
omental biopsy was obtained. The abdomen was thoroughly
irrigated. 
Pathology from the right ovary demonstrated a 
well-differentiated adenocarcinoma associated with a 7.5cm
mucinous borderline  tumor. There was no LVSI, or malignancy
noted from the right fallopian tube. The cul-de-sac nodule was
consistent with metastatic mucinous carcinoma. Omental biopsy 
and
pelvic  washings were both negative for malignancy.
Prior to initiating chemotherapy, she underwent fertility
preservation with oocyte preservation and egg retrieval. She
began adjuvant treatment with taxol, ___ on ___. 
- ___: C1D1 Taxol, 175mc/m2, ___, AUC 6. She had myalgias
D3-7 Rash developed around day 10;  treated with prednisone x 5
days with resolution.
- ___: C2D1 Hypersensitivity Reaction to taxol ~ 18cc.  Held
remainder of treatment;  plan to refer to allergy
- ___ ___ alone, AUC 6.  Allergy referral 
- ___: C3 ___ AUC6 & Taxol 175 mg/m2 via desens on ___
- ___ C4 Carboplatin (AUC 6), Paclitaxel 
- ___  C5 Carboplatin (AUC ___), Paclitaxel 
PAST MEDICAL HISTORY:
-Childhood asthma 
-Psoriasis
 
Social History:
___
Family History:
Father - prostate cancer (age ___
PGF- prostate cancer
MGF - lymphoma

 
Physical Exam:
General:  NAD
VITAL SIGNS: T 98 BP 105/67 HR 102 RR 20 O2 100%RA
HEENT:  MMM, no OP lesions
CV:  RR, NL S1S2
PULM:  CTAB
ABD:  Soft, NTND, no masses or hepatosplenomegaly
LIMBS:  No edema, clubbing, tremors, or asterixis
SKIN:  No rashes or skin breakdown
NEURO: Alert and oriented, no focal deficits.
 
Brief Hospital Course:
___ yo female with a history of ovarian cancer who was admitted 
for paclitaxel desensitization and carboplatin.

Ovarian Cancer
- Received paclitaxel desensitization and carboplatin with 
pre-medications per protocol. Tolerated it well. To take 
dexamethasone and zofran for three days after chemotherapy. Will 
follow up with her primary oncologist as an outpatient.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cetirizine 10 mg PO ASDIR 
2. Dexamethasone 4 mg PO Q12H 
3. LORazepam 0.5 mg PO Q6H:PRN nausea, anxiety, insomnia  
4. Ondansetron 8 mg PO Q8H:PRN nausea 
5. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Moderate 

6. Prochlorperazine 10 mg PO Q6H:PRN nausea 
7. Famotidine 20 mg PO DAILY:PRN GERD 
8. Nexplanon (etonogestrel) 68 mg Other ASDIR 

 
Discharge Medications:
1.  Cetirizine 10 mg PO ASDIR  
2.  Dexamethasone 4 mg PO Q12H 
Take for three days.  
3.  Famotidine 20 mg PO DAILY:PRN GERD  
4.  LORazepam 0.5 mg PO Q6H:PRN nausea, anxiety, insomnia   
5.  Nexplanon (etonogestrel) 68 mg Other ASDIR  
6.  Ondansetron 8 mg PO Q8H:PRN nausea 
Take scheduled for three days.  
7.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate  
8.  Prochlorperazine 10 mg PO Q6H:PRN nausea  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ovarian Cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for chemotherapy which you tolerated well.
 
Followup Instructions:
___